US06992098B2
At room temperature, a mixture of 0.35 g (0.001 mol) of N-(2-bromo-4,6-difluorophenyl)-5-fluoro-1,3-dimethyl-1H-pyrazole-4-carboxamide, 0.06 g (0.00005 mol) of tetrakis-(triphenylphosphine)-palladium, 0.32 g (0.0018 mol) of 4-[(methoxyimino)methyl]phenylboronic acid and 10 ml of 1,2-dimethoxyethane is admixed with a solution of 0.5 g (0.0047 mol) of sodium carbonate in 3 ml of water. The reaction mixture is then heated to reflux temperature and kept at this temperature for 15 h. For work-up, the reaction mixture is stirred into 200 ml of water. The resulting precipitate is filtered off with suction and dried. The residue that remains is chromatographed on silica gel using the mobile phase cyclohexane:ethyl acetate=1:1. Concentration of the eluate gives 0.20 g (48% of theory) of N-{3,5-difluoro-4′-[(methoxyimino)methyl]-1,1′-biphenyl-2-yl}-5-fluoro-1,3-dimethyl-1H-pyrazole-4-carboxamide in the form of a solid of melting point 164 to 167° C.

reactant | N-(2-bromo-4,6-difluorophenyl)-5-fluoro-1,3-dimethyl-1H-pyrazole-4-carboxamide | 0.001 mol, 0.35 g | BrC1=C(C(=CC(=C1)F)F)NC(=O)C=1C(=NN(C1F)C)C | C12H9BrF3N3O
reactant | 4-[(methoxyimino)methyl]phenylboronic acid | 0.0018 mol, 0.32 g | CON=CC1=CC=C(C=C1)B(O)O | C8H10BNO3
reactant | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
reactant | sodium carbonate | 0.0047 mol, 0.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 3 ml | O | H2O
catalyst | tetrakis-(triphenylphosphine)-palladium | 0.00005 mol, 0.06 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 200 ml | O | H2O
product | N-{3,5-difluoro-4′-[(methoxyimino)methyl]-1,1′-biphenyl-2-yl}-5-fluoro-1,3-dimethyl-1H-pyrazole-4-carboxamide | 0.20 g, 48% | FC=1C(=C(C=C(C1)F)C1=CC=C(C=C1)C=NOC)NC(=O)C=1C(=NN(C1F)C)C | C20H17F3N4O2
